US06677352B1
A solution of commercially available (Aldrich) 2,6-dichloro-5-fluoronicotinic acid (5.00 g, 23.8 mmol) in thionyl chloride (15 mL) was heated at reflux for 3 h. After cooling, the solution was concentrated in vacuo to give 2,6-dichloro-5-fluoronicotinoyl chloride as a brown oil which was carried on to the next step without further purification. This transformation can also be accomplished using oxalyl chloride with catalytic DMF in place of thionyl chloride.

reactant | 2,6-dichloro-5-fluoronicotinic acid | 23.8 mmol, 5.00 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,6-dichloro-5-fluoronicotinoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=N1)Cl)F | C6HCl3FNO
